### PR TITLE
[Merged by Bors] - feat(Data/Finset): right elements of a finset in the sum type

### PR DESCRIPTION
**Pull request by b-mehta**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Sum.lean [hunk 1]
```diff
@@ -94,4 +96,77 @@ theorem disj_sum_strictMono_right (s : Finset α) :
...
   disjSum_ssubset_disjSum_of_subset_of_ssubset Subset.rfl
 
+lemma disjSum_inj {α β : Type*} {s₁ s₂ : Finset α} {t₁ t₂ : Finset β} :
+    s₁.disjSum t₁ = s₂.disjSum t₂ ↔ s₁ = s₂ ∧ t₁ = t₂ := by
+  simp [Finset.ext_iff]
+
+lemma Injective2_disjSum {α β : Type*} : Function.Injective2 (@disjSum α β) :=
+  fun _ _ _ _ => by simp [Finset.ext_iff]
+
+/-- Given a finset of elements `α ⊕ β`, extract all the elements of the form `α`. -/
```
Comment (b-mehta) [inline Mathlib/Data/Finset/Sum.lean:106]:
```suggestion
/-- 
Given a finset of elements `α ⊕ β`, extract all the elements of the form `α`. This
forms a quasi-inverse to `disjSum`, in that it recovers its left input.
-/
```

File: Mathlib/Data/Finset/Sum.lean [hunk 2]
```diff
@@ -94,4 +96,77 @@ theorem disj_sum_strictMono_right (s : Finset α) :
...
+def toLeft (s : Finset (α ⊕ β)) : Finset α :=
+  s.disjiUnion (Sum.elim singleton (fun _ => ∅)) <| by
+    simp [Set.PairwiseDisjoint, Set.Pairwise, Function.onFun, eq_comm]
+
+/-- Given a finset of elements `α ⊕ β`, extract all the elements of the form `β`. -/
```
Comment (b-mehta) [inline Mathlib/Data/Finset/Sum.lean:111]:
```suggestion
/-- 
Given a finset of elements `α ⊕ β`, extract all the elements of the form `β`. This
forms a quasi-inverse to `disjSum`, in that it recovers its right input.
-/
```

File: Mathlib/Data/Finset/Sum.lean [hunk 3]
```diff
@@ -94,4 +96,83 @@ theorem disj_sum_strictMono_right (s : Finset α) :
     StrictMono (s.disjSum : Finset β → Finset (α ⊕ β)) := fun _ _ =>
   disjSum_ssubset_disjSum_of_subset_of_ssubset Subset.rfl
 
+lemma disjSum_inj {α β : Type*} {s₁ s₂ : Finset α} {t₁ t₂ : Finset β} :
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:99]: `@[simp]`?

File: Mathlib/Data/Finset/Sum.lean [hunk 4]
```diff
@@ -94,4 +96,83 @@ theorem disj_sum_strictMono_right (s : Finset α) :
...
+  simp [Finset.ext_iff]
+
+lemma Injective2_disjSum {α β : Type*} : Function.Injective2 (@disjSum α β) :=
+  fun _ _ _ _ => by simp [Finset.ext_iff]
+
+/--
+Given a finset of elements `α ⊕ β`, extract all the elements of the form `α`. This
+forms a quasi-inverse to `disjSum`, in that it recovers its left input.
+-/
+def toLeft (s : Finset (α ⊕ β)) : Finset α :=
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:110]: Do we have the `Option` version of this? If so, a docstring reference would be good.

File: Mathlib/Data/Finset/Sum.lean [hunk 5]
```diff
@@ -94,4 +96,83 @@ theorem disj_sum_strictMono_right (s : Finset α) :
...
+  s.disjiUnion (Sum.elim singleton (fun _ => ∅)) <| by
+    simp [Set.PairwiseDisjoint, Set.Pairwise, Function.onFun, eq_comm]
+
+/--
+Given a finset of elements `α ⊕ β`, extract all the elements of the form `β`. This
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:115]: The point here is that this is a computable version of `Finset.preimage .inl`, right?

File: Mathlib/Data/Finset/Sum.lean [hunk 6]
```diff
@@ -94,4 +96,83 @@ theorem disj_sum_strictMono_right (s : Finset α) :
...
+    s.toLeft.card + s.toRight.card = s.card := by
+  rw [← card_disjSum, toLeft_disjSum_toRight]
+
+lemma card_toLeft_le {s : Finset (α ⊕ β)} : s.toLeft.card ≤ s.card :=
+  (Nat.le_add_right _ _).trans_eq card_toLeft_add_card_toRight
+
+lemma card_toRight_le {s : Finset (α ⊕ β)} : s.toRight.card ≤ s.card :=
+  (Nat.le_add_left _ _).trans_eq card_toLeft_add_card_toRight
+
+@[simp] lemma disjSum_toLeft : (s.disjSum t).toLeft = s := by ext x; simp
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:152]:
```suggestion
@[simp] lemma toLeft_disjSum : (s.disjSum t).toLeft = s := by ext x; simp
```

Comment (eric-wieser) [reply Mathlib/Data/Finset/Sum.lean:152]: (and throughout)

File: Mathlib/Data/Finset/Sum.lean [hunk 7]
```diff
@@ -94,4 +96,83 @@ theorem disj_sum_strictMono_right (s : Finset α) :
...
+def toRight (s : Finset (α ⊕ β)) : Finset β :=
+  s.disjiUnion (Sum.elim (fun _ => ∅) singleton) <| by
+    simp [Set.PairwiseDisjoint, Set.Pairwise, Function.onFun, eq_comm]
+
+@[simp] lemma mem_toLeft {s : Finset (α ⊕ β)} {x : α} : x ∈ s.toLeft ↔ inl x ∈ s := by
+  simp [toLeft]
+
+@[simp] lemma mem_toRight {s : Finset (α ⊕ β)} {x : β} : x ∈ s.toRight ↔ inr x ∈ s := by
+  simp [toRight]
+
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:127]: Do we have `Sum.swap`? If so, it would be good to show that `(s.map swap).toLeft = s.toRight` and vice versa.

File: Mathlib/Data/Finset/Sum.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:110]: Loogle can't find it, so I don't think so

File: Mathlib/Data/Finset/Sum.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:115]: Sure - I don't think of it like that but it's a valid way of viewing it! I can't add that lemma here because importing preimage would make an import cycle

File: Mathlib/Data/Finset/Sum.lean (hunk 7 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:127]: We have it as a map but not as an embedding, so I added the `.image` version of this.

File: Mathlib/Data/Finset/Sum.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:99]: sure, why not

File: Mathlib/Data/Finset/Sum.lean (hunk 5 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:115]: Added it to Preimage.lean instead

File: Mathlib/Data/Finset/Sum.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Sum.lean:127]: We have it as the Equiv, so I think you can get the `map` version from that.

File: Mathlib/Data/Finset/Sum.lean [hunk 8]
```diff
@@ -94,4 +96,89 @@ theorem disj_sum_strictMono_right (s : Finset α) :
...
+lemma toLeft_image_swap {s : Finset (α ⊕ β)} : (s.image Sum.swap).toLeft = s.toRight := by
+  ext x; simp
+
+lemma toRight_image_swap {s : Finset (α ⊕ β)} : (s.image Sum.swap).toRight = s.toLeft := by
+  ext x; simp
+
+@[simp] lemma toLeft_insert_inl : (insert (inl a) s).toLeft = insert a s.toLeft := by ext y; simp
+@[simp] lemma toLeft_insert_inr : (insert (inr b) s).toLeft = s.toLeft := by ext y; simp
+@[simp] lemma toRight_insert_inl : (insert (inl a) s).toRight = s.toRight := by ext y; simp
+@[simp] lemma toRight_insert_inr : (insert (inr b) s).toRight = insert b s.toRight := by ext y; simp
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:173]: Can you add the `cons` version of these too?

File: Mathlib/Data/Finset/Sum.lean (hunk 7 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:127]: Added

File: Mathlib/Data/Finset/Sum.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:181]: Done

File: Mathlib/Data/Finset/Sum.lean [hunk 9]
```diff
@@ -94,4 +96,106 @@ theorem disj_sum_strictMono_right (s : Finset α) :
...
+
+@[simp] lemma toLeft_cons_inl (ha) :
+    (cons (inl a) s ha).toLeft = cons a s.toLeft (by simpa) := by ext y; simp
+@[simp] lemma toLeft_cons_inr (hb) :
+    (cons (inr b) s hb).toLeft = s.toLeft := by ext y; simp
+@[simp] lemma toRight_cons_inl (ha) :
+    (cons (inl a) s ha).toRight = s.toRight := by ext y; simp
+@[simp] lemma toRight_cons_inr (hb) :
+    (cons (inr b) s hb).toRight = cons b s.toRight (by simpa) := by ext y; simp
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sum.lean:190]: These shouldn't need `DecidableEq`

File: Mathlib/Data/Finset/Sum.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Sum.lean:110]: `List.reduceOption` is what I'm thinking of.

Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:110]: There's also List.partitionMap which is a closer analogy, but it has basically no API, in particular not nearly enough to show you get something well-defined on multisets

Comment (eric-wieser) [reply Mathlib/Data/Finset/Sum.lean:110]: Nice find. Can you leave a note somewhere in this file about that function? No need to write any new theorems in this PR, but I think `s.toLeft` is morally `(partitionMap id s).1`?

Comment (b-mehta) [reply Mathlib/Data/Finset/Sum.lean:110]: Morally it is - indeed my first attempt at this definition was in terms of that, but it's way more painful to use in context. Will add a comment

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
